US08058444B2
Di-tert-butyl(3-(3-(4-((pyridin-2-yloxy)methyl)benzyl)isoxazol-5-yl)pyridin-2-yl)imidodicarbonate
4-Methylene-2-oxo-4H-pyrido[2,3-d][1,3]oxazine-1-carboxylic acid tert-butyl ester described in Preparation Example 3-3-1 (1.48 g), 2-(4-(2-nitro-ethyl)-benzyloxy)pyridine described in Preparation Example 1-3-4 (2.9 g), di-tert-butyl dicarbonate (6.14 g), 4-dimethyl aminopyridine (68.6 mg), and tetrahydrofuran (5 mL) were stirred at room temperature for two hours. Silica gel was added to the reaction solution and the solvent was concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate=3:1 then 1:1 then 1:2) to obtain the title compound (2.1 g).

reactant | 4-Methylene-2-oxo-4H-pyrido[2,3-d][1,3]oxazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC(C2=C1N=CC=C2)=C)=O | C13H14N2O4
reactant | 2-(4-(2-nitro-ethyl)-benzyloxy)pyridine | [N+](=O)([O-])CCC1=CC=C(COC2=NC=CC=C2)C=C1 | C14H14N2O3
reactant | di-tert-butyl dicarbonate | 6.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl(3-(3-(4-((pyridin-2-yloxy)methyl)benzyl)isoxazol-5-yl)pyridin-2-yl)imidodicarbonate | 2.1 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)COC1=NC=CC=C1 | C31H34N4O6
